US09260397B2
1-(3,5-bis(trifluormethyl)phenyl)-3-propyl imidazolium bromide
According to the general synthesis procedure 3.60 mmol (1.00 g) 1-(3,5-bis(trifluormethyl)phenyl)imidazole and 4.20 mmol (0,530 g, 0.39 ml) 1-bromopropane are dissolved in 5 ml THF and heated for 18 h to 90° C.

reactant | 1-(3,5-bis(trifluormethyl)phenyl)imidazole | 3.60 mmol, 1.00 g | FC(C=1C=C(C=C(C1)C(F)(F)F)N1C=NC=C1)(F)F | C11H6F6N2
reactant | 1-bromopropane | 4.20 mmol, 0.39 ml, 0,530 g | BrCCC | C3H7Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(3,5-bis(trifluormethyl)phenyl)-3-propyl imidazolium bromide | [Br-].FC(C=1C=C(C=C(C1)C(F)(F)F)[N+]1=CN(C=C1)CCC)(F)F | InChI=1S/C14H13F6N2.BrH/c1-2-3-21-4-5-22(9-21)12-7-10(13(15,16)17)6-11(8-12)14(18,19)20;/h4-9H,2-3H2,1H3;1H/q+1;/p-1
